US07544690B2
To a solution of 4-aminomethyl-phenylamine (1.00 g, 8.19 mmol) in CHCl3 (10 mL) was added triethylamine (870 mg, 8.60 mmol). After cooling on an ice-bath, (Boc)2O (1.88 g, 8.61 mmol) was added dropwise. The reaction mixture was stirred at ambient temperature for 55 min and poured into saturated aqueous NaHCO3. The aqueous layer was extracted with CHCl3 (three times). The combined organic layer was dried over MgSO4, filtered, concentrated, and purified by flash chromatography (silica gel, 9% MeOH in CHCl3) to give (4-amino-benzyl)-carbamic acid tert-butyl ester (1.79 g, 99%) as a yellow solid.

reactant | 4-aminomethyl-phenylamine | 8.19 mmol, 1.00 g | NCC1=CC=C(C=C1)N | C7H10N2
reactant | triethylamine | 8.60 mmol, 870 mg | C(C)N(CC)CC | C6H15N
reactant | (Boc)2O | 8.61 mmol, 1.88 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
solvent | CHCl3 | 10 mL | C(Cl)(Cl)Cl | CHCl3
product | (4-amino-benzyl)-carbamic acid tert-butyl ester | 1.79 g, 99% | C(C)(C)(C)OC(NCC1=CC=C(C=C1)N)=O | C12H18N2O2
